US09260429B2
(C) 2,3,4,9-tetrahydro-2,6-dimethyl-9-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[3,4-b]indole (Compound 1)
The title compound was prepared by General Method 4. 150 mg of N-methyl-2-(5-methyl-1-(2-(6-methylpyridin-3-yl)ethyl)-1H-indol-3-yl)ethanamine was dissolved in acetonitrile (4 mL) containing 5% TFA and the reaction mixture was heated to reflux. 37% aqueous formaldehyde (0.04 mL) was added and the reflux was continued for additional 1.5 h. The reaction mixture was cooled to 25° C., concentrated under reduced pressure and partitioned between ethyl acetate and satd. Aqueous NaHCO3. The organic layer was dried over sodium sulfate, evaporated under reduced pressure and the residue was purified by silica gel chromatography (eluent Methanol:aqueous NH3, 95:5) to obtain the product. The free base was converted into its dihydrochloride salt by treatment of dioxane-HCl. 1H NMR (DMSO) δ 11.7 (bs, 1H), 8.6 (s, 1H), 8.3 (d, 1H), 7.7 (d, 1H), 7.3 (d, 1H), 7.25 (s, 1H), 6.9 (d, 1H), 4.8 (m, 1H), 4.4 (m, 1H), 4.35 (t, 2H), 3.7 (bs, 1H), 3.55 (s, 3H), 3.5 (m, 1H), 3.4 (bs, 1H), 3.1 (t, 2H), 3.05 (bs, 1H), 2.65 (3, 3H), 2.35 (s, 3H). MS m/z observed 320. HPLC RT 3.63 min.

reactant | N-methyl-2-(5-methyl-1-(2-(6-methylpyridin-3-yl)ethyl)-1H-indol-3-yl)ethanamine | 150 mg | CNCCC1=CN(C2=CC=C(C=C12)C)CCC=1C=NC(=CC1)C | C20H25N3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | formaldehyde | 0.04 mL | C=O | CH2O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | dioxane-HCl | Cl.O1CCOCC1
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 2,3,4,9-tetrahydro-2,6-dimethyl-9-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[3,4-b]indole | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)CCC=1C=NC(=CC1)C | C21H25N3
